US07825264B2
15.0 g (121 mmol) of 4-fluorobenzaldehyde were added to a solution of 21.3 g (184 mmol) of tert-butyl carbamate and 32.3 g (181 mmol) of sodium p-toluenesulfonate in 430 ml of acetonitrile under argon. While cooling to 0-10° C., 26.3 g (242 mmol) of chlorotrimethylsilane were added dropwise, and the mixture was left to stir at room temperature overnight. After addition of 400 ml of water, the precipitated product was filtered off with suction and dried in vacuo at 50° C. 36.3 g of tert-butyl [(4-fluorophenyl)(toluene-4-sulfonyl)methyl]carbamate were obtained.

reactant | 4-fluorobenzaldehyde | 121 mmol, 15.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | tert-butyl carbamate | 184 mmol, 21.3 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | sodium p-toluenesulfonate | 181 mmol, 32.3 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[Na+]
reactant | chlorotrimethylsilane | 242 mmol, 26.3 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 430 ml | C(C)#N | C2H3N
solvent | water | 400 ml | O | H2O
product | tert-butyl [(4-fluorophenyl)(toluene-4-sulfonyl)methyl]carbamate | 36.3 g | FC1=CC=C(C=C1)C(S(=O)(=O)C1=CC=C(C=C1)C)NC(OC(C)(C)C)=O | C19H22FNO4S
